US06492394B1
To a mixture of 2(R)-{[(3,4-diamino)benzyl]-(4-methoxybenzenesulfonyl)amino}-3-methylbutyric acid tert-butyl ester (90 mg, 0.194 mmol) and trimethyl orthoformate (0.022 mL, 1.05 equiv.) in dry toluene (10 mL) was added KSF montmorillonite clay (25 mg). The reaction mixture was heated at reflux for 6.5 h and then cooled to room temperature. After reaching room temperature, the mixture was condensed in vacuo and the residue was loaded onto a preparatory thin layer chromatography plate. Elution with methanol/methylene chloride (10%) provided 2(R)-[(benzimidazol-5-ylmethyl)-(4-methoxy-benzenesulfonyl)amino]-3-methylbutyric acid tert-butyl ester (79 mg).

reactant | 2(R)-{[(3,4-diamino)benzyl]-(4-methoxybenzenesulfonyl)amino}-3-methylbutyric acid tert-butyl ester | 0.194 mmol, 90 mg | C(C)(C)(C)OC([C@@H](C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC1=CC(=C(C=C1)N)N)=O | C23H33N3O5S
reactant | trimethyl orthoformate | 0.022 mL, 1.05 equiv. | C(OC)(OC)OC | C4H10O3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2(R)-[(benzimidazol-5-ylmethyl)-(4-methoxy-benzenesulfonyl)amino]-3-methylbutyric acid tert-butyl ester | 79 mg | C(C)(C)(C)OC([C@@H](C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC1=CC2=C(N=CN2)C=C1)=O | C24H31N3O5S
